* sg13g2_einvn_4: exhaustive vectors, thin-oxide vs thick-oxide
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.include /foss/designs/sg13g2_stdcell_hv/spice/sg13g2_stdcell_hv.spice

Vlv vlv 0 1.2
Vhv vhv 0 3.3
Vlvh vlvh 0 0.6
Vhvh vhvh 0 1.65

Xlv0 o_lv_0_Z 0 0 vlv 0 sg13g2_einvn_4
Rklv0Z o_lv_0_Z vlvh 1G
Xhv0 o_hv_0_Z 0 0 vhv 0 sg13g2_hv_einvn_4
Rkhv0Z o_hv_0_Z vhvh 1G
Xlv1 o_lv_1_Z 0 vlv vlv 0 sg13g2_einvn_4
Rklv1Z o_lv_1_Z vlvh 1G
Xhv1 o_hv_1_Z 0 vhv vhv 0 sg13g2_hv_einvn_4
Rkhv1Z o_hv_1_Z vhvh 1G
Xlv2 o_lv_2_Z vlv 0 vlv 0 sg13g2_einvn_4
Rklv2Z o_lv_2_Z vlvh 1G
Xhv2 o_hv_2_Z vhv 0 vhv 0 sg13g2_hv_einvn_4
Rkhv2Z o_hv_2_Z vhvh 1G
Xlv3 o_lv_3_Z vlv vlv vlv 0 sg13g2_einvn_4
Rklv3Z o_lv_3_Z vlvh 1G
Xhv3 o_hv_3_Z vhv vhv vhv 0 sg13g2_hv_einvn_4
Rkhv3Z o_hv_3_Z vhvh 1G

.control
op
print v(o_lv_0_Z)
print v(o_hv_0_Z)
print v(o_lv_1_Z)
print v(o_hv_1_Z)
print v(o_lv_2_Z)
print v(o_hv_2_Z)
print v(o_lv_3_Z)
print v(o_hv_3_Z)
quit
.endc
.end
